US07423030B2
23.3. 1-Chloro-4-(4-chlorophenyl)-7-methoxyphthalazine
This compound is obtained according to the procedure described in 1.3. by reacting 4-(4-chlorophenyl)-7-methoxy-2H-phthalazin-1-one with phosphoryl chloride.

reactant | 4-(4-chlorophenyl)-7-methoxy-2H-phthalazin-1-one | ClC1=CC=C(C=C1)C1=NNC(C2=CC(=CC=C12)OC)=O | C15H11ClN2O2
reactant | phosphoryl chloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Chloro-4-(4-chlorophenyl)-7-methoxyphthalazine | ClC1=NN=C(C2=CC=C(C=C12)OC)C1=CC=C(C=C1)Cl | C15H10Cl2N2O
